US07572825B2
1-(4′-Methoxy-biphenylyl)-ethanone
The 4′-methoxybiphenyl (0.05 mol) and AlCl3 (0.06 mol) were dissolved in boiling CS2 (60 mL) with stirring. Acetyl chloride (0.1 mol) was added dropwise and reflux continued for 1 hour. The mixture was poured onto crushed ice (150 mL) containing water (50 mL) and HCl (50 mL). The organic phase was separated and the CS2 removed by distillation. The residue was recrystallised from aqueous isopropanol to give the title compound. δC (CDCl3, 62.9 MHz): 26.6, 55.4, 114.4, 126.6, 128.4, 129.0, 132.2, 135.3, 145.4, 159.9 and 198.0

reactant | 4′-methoxybiphenyl | 0.05 mol | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
reactant | AlCl3 | 0.06 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Acetyl chloride | 0.1 mol | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 50 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | CS2 | 60 mL | C(=S)=S | CS2
product | 1-(4′-Methoxy-biphenylyl)-ethanone | COC1=CC=C(C=C1)C1=C(C=CC=C1)C(C)=O | C15H14O2
